US07851473B2
N-1,2-Benzisoxazol-3-yl-4-(3-piperidin-1-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 1-(5-chloro-1,2,4-thiadiazol-3-yl)piperidine (114 mg, 0.555 mmol) and N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate (200 mg, 0.555 mmol) in N,N-dimethylformamide (2 ml) was added triethylamine (0.389 ml, 2.78 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1) to give the desired product as a solid. The resulting solid was recrystallized from a mixed solvent of ethyl acetate, tetrahydrofuran and hexane to yield 44.0 mg (10.7%) of the desired product. mp 214-215° C.

reactant | 1-(5-chloro-1,2,4-thiadiazol-3-yl)piperidine | 0.555 mmol, 114 mg | ClC1=NC(=NS1)N1CCCCC1 | C7H10ClN3S
reactant | N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate | 0.555 mmol, 200 mg | FC(C(=O)O)(F)F.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCNCC2
reactant | triethylamine | 2.78 mmol, 0.389 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-1,2-Benzisoxazol-3-yl-4-(3-piperidin-1-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCCCC2 | C19H23N7O2S
